US07153874B2
4-(2-Isopropyl-1H-imidazol-4-ylethynyl)-2-methyl-pyridine (II-2) [MS: m/e=226.4 (M+H+)] was prepared in analogy to the method as described in example II-1, method A2, step 3 from 2-methyl-4-trimethylsilanylethynyl-pyridine and 5-iodo-2-isopropyl-1H-imidazole.

reactant | 2-methyl-4-trimethylsilanylethynyl-pyridine | CC1=NC=CC(=C1)C#C[Si](C)(C)C | C11H15NSi
reactant | 5-iodo-2-isopropyl-1H-imidazole | IC1=CN=C(N1)C(C)C | C6H9IN2
product | 4-(2-Isopropyl-1H-imidazol-4-ylethynyl)-2-methyl-pyridine | C(C)(C)C=1NC=C(N1)C#CC1=CC(=NC=C1)C | C14H15N3
